US07148215B2
N-(4-Methylpiperazin-1-ylmethylphenyl)acetamide
A stirred solution of formic acid (3.77 mL) at −10° C. was treated with 1-methylpiperazine (11.10 mL) dropwise whilst maintaining the temperature at −10° C. The reaction mixture was then allowed to warm to room temperature and treated with 4-acetamidobenzaldehyde (4.08 g). After stirring at 130° C. for 15 minutes the temperature was increased to 155° C. and stirring continued for 2.5 hours. The reaction mixture was allowed to cool to room temperature and treated with diisopropyl ether (50 mL). The insoluble material was washed with diethyl ether to give the title compound (3.98 g) as buff crystalline solid, m.p. 106–108° C. MS: 248 [MH]+.

reactant | 1-methylpiperazine | 11.10 mL | CN1CCNCC1 | C5H12N2
reactant | 4-acetamidobenzaldehyde | 4.08 g | C(C)(=O)NC1=CC=C(C=O)C=C1 | C9H9NO2
reactant | diisopropyl ether | 50 mL | C(C)(C)OC(C)C | C6H14O
solvent | formic acid | 3.77 mL | C(=O)O | CH2O2
product | N-(4-Methylpiperazin-1-ylmethylphenyl)acetamide | 3.98 g | CC1=CC(=C(C=C1)NC(C)=O)CN1CCNCC1 | C14H21N3O
